US08022062B2
9-Fluoro-6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3-dihydro-1H-benzo[d]azepine:
Dissolve N-(2,2-dimethoxy-ethyl)-2,2,2-trifluoro-N-[2-(2-fluoro-5-methoxy-phenyl)-ethyl]-acetamide (5 g, 14.2 mmol) in chlorobenzene (100 mL). Add polyphosphoric acid (5 g) and P2O5 (2.5 g) and heat at 80° C. for 2 h. Add water to the hot mixture, cool to room temperature and extract with DCM. Dry the organic extracts over Na2SO4 and concentrate in vacuo to obtain the desired intermediate (3.0 g, 73%). MS (ES+) m/z: 290 (M+H)+.

reactant | N-(2,2-dimethoxy-ethyl)-2,2,2-trifluoro-N-[2-(2-fluoro-5-methoxy-phenyl)-ethyl]-acetamide | 14.2 mmol, 5 g | COC(CN(C(C(F)(F)F)=O)CCC1=C(C=CC(=C1)OC)F)OC | C15H19F4NO4
reactant | P2O5 | 2.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | water | O | H2O
solvent | chlorobenzene | 100 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 9-Fluoro-6-methoxy-3-(2,2,2-trifluoroacetyl)-2,3-dihydro-1H-benzo[d]azepine | 3.0 g, 73% | FC1=CC=C(C2=C1CCN(C=C2)C(C(F)(F)F)=O)OC | C13H11F4NO2
